US08003681B2
2-[5-Difluoromethyl-4-(4-methyl-naphthalen-1-yl)-4H-[1,2,4]triazol-3-ylsulfanyl]-N-(2-methyl-4-sulfamoyl-phenyl)-acetamide
In a solution of 5-difluoromethyl-4-(4-methyl-naphthalen-1-yl)-4H-[1,2,4]triazole-3-thiol (53 mg, 0.18 mmol), K2CO3 (27.0 mg, 0.20 mmol) in DMF (1.5 mL) was added 2-methyl-N-(2-methyl-4-sulfamoyl-phenyl)-acetamide (47 mg, 0.18 mmol). The reaction mixture was stirred at room temperature for 16 h. Upon the completion of the reaction, H2O (4.0 mL) was added to the reaction and stirred until precipitation occurred and filtered off product (77.0 mg, 83% yield). 1H NMR (DMSO, 300 MHz) δ 9.84 (broad s, 1H), 8.18 (d, J=8.0 Hz, 1H), 7.70-7.53 (m, 7H), 7.18 (t, J=51.5 Hz, 1H), 7.11 (d, J=8.0 Hz, 1H), 4.26 (s, 2H), 2.82 (s, 3H), 2.27 (s, 3H).

reactant | 5-difluoromethyl-4-(4-methyl-naphthalen-1-yl)-4H-[1,2,4]triazole-3-thiol | 0.18 mmol, 53 mg | FC(C=1N(C(=NN1)S)C1=CC=C(C2=CC=CC=C12)C)F | C14H11F2N3S
reactant | K2CO3 | 0.20 mmol, 27.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methyl-N-(2-methyl-4-sulfamoyl-phenyl)-acetamide | 0.18 mmol, 47 mg | CCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)C | C10H14N2O3S
reactant | H2O | 4.0 mL | O | H2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 2-[5-Difluoromethyl-4-(4-methyl-naphthalen-1-yl)-4H-[1,2,4]triazol-3-ylsulfanyl]-N-(2-methyl-4-sulfamoyl-phenyl)-acetamide | 77.0 mg, 83% yield | FC(C=1N(C(=NN1)SCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)C)C1=CC=C(C2=CC=CC=C12)C)F | C23H21F2N5O3S2
